US05077288
Ethyl 2-(4-fluorophenacyl)cyanoacetate
A solution of 86.7 g of sodium in 4,500 ml of anhydrous ethanol is added at 15° C. to a solution of 528 g of ethyl cyanoacetate in 500 ml of anhydrous ethanol. After one hour, the mixture is cooled to 0° C. and a solution of 620 g of 2-chloro-4-fluoroacetophenone in one liter of ethanol is added to the solution obtained. The reaction mixture is left for 12 hours at room temperature, then hydrolyzed with 200 ml of water and concentrated. The residue is taken up in one liter of water and this aqueous phase is neutralized to pH 7 and extracted with dichloromethane, followed by concentration.

reactant | sodium | 86.7 g | [Na] | Na
reactant | ethyl cyanoacetate | 528 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-chloro-4-fluoroacetophenone | 620 g | CC(=O)C1=C(C=C(C=C1)F)Cl | C8H6ClFO
solvent | ethanol | 4,500 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | one liter | C(C)O | C2H6O
product | Ethyl 2-(4-fluorophenacyl)cyanoacetate | FC1=CC=C(C(CC(C(=O)OCC)C#N)=O)C=C1 | C13H12FNO3
